US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[1-(2-chloro-4-hydroxybenzyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine
Using the general procedure described in Example 3, N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine (0.045 mmol) was reacted with 2-chloro-4-hydroxybenzaldehyde to provide 22 mg of the title product as the free base. Treatment with hydrochloric acid and concentration in vacuo yielded the salt of the title compound.

reactant | N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine | 0.045 mmol | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCNCC2)C=C1 | C20H23N3O3
reactant | 2-chloro-4-hydroxybenzaldehyde | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
product | N1-(4-Methoxybenzoyl)-N2-[1-(2-chloro-4-hydroxybenzyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine | 22 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCN(CC2)CC2=C(C=C(C=C2)O)Cl)C=C1 | C27H28ClN3O4
